US08466282B2
Tert-butyl (3R,5S)-3-cyano-5-{{{1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}piperidine-1-carboxylate
tert-Butyl (3R,5S)-3-carbamoyl-5-{{{1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}piperidine-1-carboxylate (1.01 g) was dissolved in pyridine (10 ml), trifluoroacetic anhydride (570 μl) was added at 0° C., and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure, and diluted with ethyl acetate. 1M Hydrochloric acid was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, and a fraction eluted with ethyl acetate-hexane (5:95)-ethyl acetate was concentrated under reduced pressure to give the object product (1.01 g).

reactant | tert-Butyl (3R,5S)-3-carbamoyl-5-{{{1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}piperidine-1-carboxylate | 1.01 g | C(N)(=O)[C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)C(=O)OC(C)(C)C | C28H43N5O5
reactant | trifluoroacetic anhydride | 570 μl | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | Tert-butyl (3R,5S)-3-cyano-5-{{{1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}piperidine-1-carboxylate | 1.01 g | C(#N)[C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)C(=O)OC(C)(C)C | C28H41N5O4
